US04312662
To a stirred solution containing 21.3 (0.1 mol) of disodium-N-phosphonomethylglycine in water at a temperature of 10°-15° C. was slowly added 17.5 g (0.105 mol) of 4-chloro-2-butynyl chloroformate. A 50% sodium hydroxide solution was slowly added to the reaction mixture to a phenolphthalein endpoint. The addition of the sodium hydroxide solution was repeated until the phenolphthalein endpoint was stable. The resulting mixture was extracted with diethyl ether. The layers were separated and the aqueous layer was acidified with hydrochloric acid, then passed over acid Dowex-50 ion exchange resin. The eluate was concentrated in vacuo yielding a residual gum which was dried over potassium hydroxide pellets (at 1 mm Hg) to yield N-[(4-chloro-2-butynyl)oxy]carbonyl-N-phosphonomethylglycine (11.3 g; 38% yield) as a tan glass having the following analysis: Calculated: Cl, 11.83; P, 10.34. Found: Cl, 12.82; P, 11.03.

reactant | disodium N-phosphonomethylglycine | [Na][Na].P(=O)(O)(O)CNCC(=O)O
reactant | 4-chloro-2-butynyl chloroformate | 0.105 mol, 17.5 g | ClC(=O)OCC#CCCl | C5H4Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
solvent | water | O | H2O
product | N-[(4-chloro-2-butynyl)oxy]carbonyl-N-phosphonomethylglycine | 11.3 g, 38% yield | ClCC#CCOC(=O)N(CC(=O)O)CP(=O)(O)O | C8H11ClNO7P
